US04520195
(b) Preparation of 3-[(diphenylmethyl)thio]-5,6-dihydro-2-methyl-5,6-dioxo-as-triazine-1(2H)-carboxylic acid benzyl ester
13.2 g of tetrahydro-2-methyl-5,6-dioxo-3-thioxo-as-triazine-1(2H)-carboxylic acid benzyl ester are dissolved in 500 ml of ethyl acetate and treated with a solution of diphenyldiazomethane in 90 ml of low-boiling petroleum ether. The initially violet solution is left to stand for 40 hours at 25° C., the colour becoming pink. 3 ml of glacial acetic acid are added and, after 1 hour, the mixture is evaporated in vacuo at 40° C. A yellow oil is obtained as the evaporation residue. This is separated by column chromatography on silica gel using benzene, benzene/ethyl acetate (95:5) and benzene/ethyl acetate (90:10) for the elution. The fractions containing the desired substance are combined and evaporated in vacuo at 40° C. After recrystallization from ethanol, there is obtained colourless pure substance of m.p. 90°-92° C.

reactant | tetrahydro-2-methyl-5,6-dioxo-3-thioxo-as-triazine-1(2H)-carboxylic acid benzyl ester | 13.2 g | C(C1=CC=CC=C1)OC(=O)N1N(C(NC(C1=O)=O)=S)C | C12H11N3O4S
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(diphenylmethyl)thio]-5,6-dihydro-2-methyl-5,6-dioxo-as-triazine-1(2H)-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1N(C(=NC(C1=O)=O)SC(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H21N3O4S
